US05470862
A 500 ml Erlenmeyer flask was charged with 25.0 g of 3-butyne-2-one and ethyl ether (200 ml). To the resulting solution, 41.9 g of ethyl diazoacetate were added slowly with stirring. After 30 minutes of stirring, the ether solution began refluxing by itself. After stirring for 1 hour, the mixture was chilled at 0° C. for 1 hour and filtered to yield 28.5 g of 5-acetylpyrazole-3-carboxylic acid ethyl ester as white solids, mp 114°-115° C. NMR: 1.42 (t, 3H), 2.62 (s, 3H), 4.44 (q, 2H), 7.36 (s, 1H).

reactant | 3-butyne-2-one | 25.0 g | CC(C#C)=O | C4H4O
reactant | ethyl diazoacetate | 41.9 g | [N+](=[N-])=CC(=O)OCC | C4H6N2O2
solvent | ether | CCOCC | C4H10O
solvent | ethyl ether | 200 ml | C(C)OCC | C4H10O
product | 5-acetylpyrazole-3-carboxylic acid ethyl ester | 28.5 g | C(C)OC(=O)C1=NNC(=C1)C(C)=O | C8H10N2O3
